US07091346B1
1.9 g (10 mmol) of 2,6-dichloro-purine are stirred in 40 ml of DMF/n-butanol (1:3) with 4.1 g (30 mmol) of 4-nitro-aniline at 130° C. for 24 h and the crystal mass which precipitates out on cooling is filtered off and dried in vacuo. 2-Chloro-6-(4-nitro-phenyl-amino)-purine is obtained; m.p.>270° C.; FAB-MS: (M+H)+=291; Rf=0.6 (CH2Cl2:methanol=9:1).

reactant | 2,6-dichloro-purine | 10 mmol, 1.9 g | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
reactant | 4-nitro-aniline | 30 mmol, 4.1 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
solvent | DMF n-butanol | 40 ml | CN(C)C=O.C(CCC)O
product | 2-Chloro-6-(4-nitro-phenyl-amino)-purine | ClC1=NC(=C2NC=NC2=N1)NC1=CC=C(C=C1)[N+](=O)[O-] | C11H7ClN6O2
